US05610177
b) Bis-(1-naphthylmethyl)acetyl-(α-methyl-D-tryptophan)
A solution of 4.24 g (7.6 mmol) of methyl bis-(1-naphthylmethyl)acetyl-(α-methyl-D-tryptophan) in 50 mL MeOH and 50 mL dioxane was treated with a solution of 1.0 g (25 mmol) of NaOH in 10 mL H2O and the solution left stirring at room temperature for 4 days. The solvent was removed under reduced pressure and the residue mixed with H2O and acidified to Congo red end point with dilute HCl. The crude product was collected and chromatographed on silica gel, eluting with CHCl3 : MeOH (95:5). There was obtained 2.37 g (57.8% yield) of the product as a solid foam. The structure was confirmed by NMR and mass spectroscopy.

reactant | methyl bis-(1-naphthylmethyl)acetyl-(α-methyl-D-tryptophan) | 7.6 mmol, 4.24 g | CC(C(=O)N[C@](CC1=CNC2=CC=CC=C12)(C(=O)O)C)(CC1=CC=CC2=CC=CC=C12)CC1=CC=CC2=CC=CC=C12 | C37H34N2O3
reactant | NaOH | 25 mmol, 1.0 g | [OH-].[Na+]
solvent | MeOH | 50 mL | CO | CH4O
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 10 mL | O | H2O
product | Bis-(1-naphthylmethyl)acetyl-(α-methyl-D-tryptophan) | 2.37 g, 57.8% yield | C1(=CC=CC2=CC=CC=C12)CC(C(=O)N[C@](CC1=CNC2=CC=CC=C12)(C(=O)O)C)CC1=CC=CC2=CC=CC=C12 | C36H32N2O3
